Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Throat swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M transferred to ___ for epiglottitis an admitted to the 
MICU for airway monitoring. Pt had bilateral upper central 
incisor implants 3 days ago. He was put on amoxicillin. Since 
then he has had sore throat, and  progressive odynophagia with 
muffled voice. No difficulity breathing. He went to ___ on 
___, where he had a CT notable for epiglottitis. He received 
zosyn and decadron before transfer. Labs at ___ notable for 
WBC 19. 

In the ED, initial vitals:  98.1 82 143/90 16 97% RA. Speakin in 
full sentences, handling secretions, no stridor. Seen by ENT. 
Exam notable for erythematous and edematous epiglottis and 
vallecula cyst. No stridor or respiratory difficulty. While at 
ED, received 10mg IV decadron and zosyn. 

On transfer, vitals were: 98.7 85 127/82 15 100% RA

 
Past Medical History:
HTN
HLD
 
Social History:
___
Family History:
No significant family history
 
Physical Exam:
Exam on Admission:
Vitals: T:afebrile BP:139/85 P:85 R: 18 O2: 97 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, no stridor  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNII-XII intact, motor and sensory function intact

Exam on Discharge:
Vitals: T:98.0 BP:123/69 P:56 R:18 O2:96% RA   
 GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, no stridor  
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
 ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: No focal deficits
Labs: see below  
Imaging and studies: see below 
 
Pertinent Results:
ADMISSION LABS:
___ 01:28AM BLOOD WBC-14.3* RBC-4.43* Hgb-14.2 Hct-40.1 
MCV-91 MCH-32.1* MCHC-35.4 RDW-12.0 RDWSD-39.7 Plt ___
___ 01:28AM BLOOD ___ PTT-26.3 ___
___ 01:28AM BLOOD Glucose-159* UreaN-22* Creat-0.9 Na-141 
K-4.0 Cl-107 HCO3-22 AnGap-16
___ 01:28AM BLOOD ALT-30 AST-24 LD(LDH)-196 AlkPhos-87 
TotBili-1.1
___ 01:28AM BLOOD Albumin-3.3* Calcium-9.0 Phos-3.5 Mg-1.7

Imaging:
None

MICROBIOLOGY:
MRSA screen ___: negative

DISCHARGE LABS:
___ 07:31AM BLOOD WBC-15.3* RBC-4.62 Hgb-14.9 Hct-42.2 
MCV-91 MCH-32.3* MCHC-35.3 RDW-11.9 RDWSD-39.8 Plt ___
___ 07:31AM BLOOD Plt ___
___ 07:31AM BLOOD ___ PTT-24.0* ___
___ 07:31AM BLOOD Glucose-133* UreaN-25* Creat-1.0 Na-143 
K-4.1 Cl-105 HCO3-28 AnGap-14
___ 07:31AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ yo M transferred to ___ for epiglottitis 
an admitted to the MICU for airway monitoring.

ACTIVE ISSUES:
# Epiglotitis: Patient presented with sore throat since dental 
implant three days ago prior to admission and progressive 
odynophagia, difficulity speaking and found to have epiglottitis 
on CT scan. Exam by ENT notable for erythematous and edematous 
epiglottis and vallecula cyst. Patient was started on IV 
Decadron and IV Zosyn for empiric coverage of infectious 
etiologies of epiglottitis. He was admitted to the ICU for 
airway monitoring.  Patient subjectively improved and on exam 
had no stridor or wheeze.  He was able to swallow clears and 
pills without difficulty.  ENT re-scoped patient on second day 
of admission and found very similar findings to prior 
examination. They recommended continuing close observation in 
the ICU for additional 24 hours. He was called out of the ICU on 
___ and continued to do well on the floor. ENT re-evaluated 
patient on morning of ___ and noted significant improvement in 
edema. Patient was discharged to home on Prednisone taper and 
two week course of augmentin and flagyl. He is scheduled to 
follow up with ENT on ___.

# Cough: Patient with URI symptoms prior to presentation and was 
being treated with Tessalon perles and Guaifenisen with Codeine. 
 These medications were continued for patient's symptoms while 
in house. Cough improved prior to discharge.

CHRONIC ISSUES:
# HLD: continued home Atorvastatin

# HTN: continued home amlodipine

# BPH: continued home finasteride

TRANSITIONAL ISSUES
===================
-Prednisone Taper: ___: prednisone 50 mg, ___: prednisone 40 
mg, ___: prednisone 30 mg, ___: prednisone 20 mg, ___: 
prednisone 10 mg. 
-Antibiotics: Augmentin/flagyl x 2 weeks end date ___. 
-Patient has ENT follow up with Dr. ___ on ___. 
-Communication: HCP: wife ___ ___ 
-Code: Full Code (confirmed)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Amlodipine 5 mg PO DAILY 
3. Finasteride 5 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Finasteride 5 mg PO DAILY 
4. PredniSONE 50 mg PO ONCE Duration: 1 Dose 
This is dose # 1 of 5 tapered doses
RX *prednisone 10 mg 5 tablet(s) by mouth once ___ Disp #*5 
Tablet Refills:*0
5. PredniSONE 40 mg PO ONCE Duration: 1 Dose 
Start: After 50 mg ONCE tapered dose 
This is dose # 2 of 5 tapered doses
RX *prednisone 10 mg 4 tablet(s) by mouth once ___ Disp #*4 
Tablet Refills:*0
6. PredniSONE 30 mg PO ONCE Duration: 1 Dose 
Start: After 40 mg ONCE tapered dose 
This is dose # 3 of 5 tapered doses
RX *prednisone 10 mg 3 tablet(s) by mouth once ___ Disp #*3 
Tablet Refills:*0
7. PredniSONE 20 mg PO ONCE Duration: 1 Dose 
Start: After 30 mg ONCE tapered dose 
This is dose # 4 of 5 tapered doses
RX *prednisone 10 mg 2 tablet(s) by mouth once ___ Disp #*2 
Tablet Refills:*0
8. PredniSONE 10 mg PO ONCE Duration: 1 Dose 
Start: After 20 mg ONCE tapered dose 
This is dose # 5 of 5 tapered doses
RX *prednisone 10 mg 1 tablet(s) by mouth once ___ Disp #*1 
Tablet Refills:*0
9. MetRONIDAZOLE (FLagyl) 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*40 Tablet Refills:*0
10. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
twice a day Disp #*27 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
-Epiglottitis

Secondary Diagnosis
===================
-Hypertension
-Hyperlipidemia
-BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ after 
experiencing sore throat and change in your voice. You underwent 
an imaging study which showed inflammation of part of the body 
called the epiglottis. This is known as epiglottitis. You were 
seen by the Ears, Nose and Throat (ENT doctors) who did a 
laryngoscopy which showed swelling of the epiglottis.

You were treated with steroids to decrease the inflammation and 
antibiotics. You were briefly kept in the Intensive Care Unit 
for further monitoring.

A repeat laryngoscopy by the ENT doctors revealed improvement in 
the swelling.

Please continue with the prednisone taper as follows: ___: 
prednisone 50 mg, ___: prednisone 40 mg, ___: prednisone 30 
mg, ___: prednisone 20 mg, ___: prednisone 10 mg.

Please also continue to take augmentin/metronidazole with end 
date ___. You should not drink alcohol while taking 
Metronidazole.

You are scheduled for follow up with ENT in one month. Dr. 
___ like to see you in two weeks. Please call 
___ to try and reschedule this appointment.

It was a pleasure taking care of you during your 
hospitalization! We wish you all the best!

Sincerely,
Your ___ Care Team  
 
Followup Instructions:
___